US09376422B2
3-{Ethyl[1-(propan-2-yl)piperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoic acid
To a stirred solution of methyl 3-{ethyl[1-(propan-2-yl)piperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoate (220 mg, 0.569 mmol) in methanol (4 mL) was added aq. NaOH (5M, 170 ul, 0.854 mmol). The reaction mixture was stirred at 50° C. for 2 hours. After cooling to 23° C. HCl (2 M) was added to the mixture. The mixture was acidified to pH=5 and was concentrated in vacuo to give the titled compound as crude products (510 mg).

reactant | methyl 3-{ethyl[1-(propan-2-yl)piperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoate | 0.569 mmol, 220 mg | C(C)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C(C)C | C20H29F3N2O2
reactant | NaOH | 0.854 mmol, 5M, 170 ul | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | 3-{Ethyl[1-(propan-2-yl)piperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoic acid | C(C)N(C=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C(C)C | C19H27F3N2O2
